US07226926B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (1.00 g, 5.2 mmol) was brominated by treatment with bromine in methanol, in the presence of potassium bromide and sodium acetate, affording 2-(3-bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol (637 mg, 45%): δH (360 MHz, CDCl3) 1.72 (6H, s), 7.32 (1H, t, J 6.9), 7.59 (1H, s), 7.89 (1H, d, J 7.3); m/z (ES+) 275 (100%, [M]+), 273 (100).

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 5.2 mmol, 1.00 g | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | bromine | BrBr | Br2
reactant | potassium bromide | [Br-].[K+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
product | 2-(3-bromo-8-fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | 637 mg, 45% | BrC1=CN=C2N1C=CC(=C2F)C(C)(C)O | C10H10BrFN2O
